US09403801B2
1-(4-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonan-2-yl)prop-2-en-1-one
To a suspension of N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine (0.10 g, 0.31 mmol) in DCM (8.0 mL) was added acrylic acid (55 mg, 0.76 mmol), HATU (0.14 g, 0.37 mmol) and Et3N (62 mg, 0.61 mmol). The mixture was stirred at room temperature for 4 h, then diluted with DCM (50 mL), and washed with water (20 mL) followed by brine (20 mL), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by preparative-TLC (DCM/MeOH (v/v)=12/1) to give the product as a light yellow solid (25 mg, 21%).

reactant | N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine | 0.31 mmol, 0.10 g | CN(C1=NC(=NC=C1)NC=1C=NN(C1)C)C1CNCC12CCCC2 | C17H25N7
reactant | acrylic acid | 0.76 mmol, 55 mg | C(C=C)(=O)O | C3H4O2
reactant | HATU | 0.37 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.61 mmol, 62 mg | CCN(CC)CC | C6H15N
solvent | DCM | 8.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonan-2-yl)prop-2-en-1-one | 25 mg, 21% | CN(C1CN(CC12CCCC2)C(C=C)=O)C2=NC(=NC=C2)NC=2C=NN(C2)C | C20H27N7O
